US20010047026A1
In a manner similar to Example 17, 1-oxo-indan-4-carboxylic acid and 4-bromophenylhydrazine hydrochloride were reacted to form 8-bromo-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid which was converted to the ethyl ester in a manner similar to that described in Example 22 to afford the title compound as a tan solid: mp 198-200° C.; 1H NMR (DMSO-d6): δ 1.39 (t, 3H), 4.00 (s, 2H), 4.37 (q, 2H), 7.22 (d, 1H), 7.42 (d, 1H), 7.52 (t, 1H), 7.79-7.84 (m, 3H), 11.86 (s, 1H); MS [EI, m/z]: 355 [M]+.

reactant | 1-oxo-indan-4-carboxylic acid | O=C1CCC=2C(=CC=CC12)C(=O)O | C10H8O3
reactant | 4-bromophenylhydrazine hydrochloride | Cl.BrC1=CC=C(C=C1)NN
product | 8-bromo-5,10-dihydro-indeno[1,2-b]indole-1-carboxylic acid | BrC1=CC=2C3=C(NC2C=C1)C=1C=CC=C(C1C3)C(=O)O | C16H10BrNO2
